US04839377
2-methylpropyl [3(2-aminoethyl)-1H-indol-5-yl]carbamate, hydrochloride
Isobutyl chloroformate (1.5 ml) was added dropwise to a stirred solution of 5-amino-1H-indole-3-acetonitrile (1.7 g) in dry DMF (20 ml). After 10 min the solution was diluted with water (150 ml) and stirring continued for 30 min. The resulting solution was extracted with ethyl acetate (2×100 ml) and the combined extracts washed with brine (10%, 100 ml), water (100 ml), dried (Na2SO4) and evaporated in vacuo to yield the crude product as a brown oil. This was purified by column chromatography (Kieselgel 60, 100 g) using ether as the eluent, to give the title compound as a colourless gum (1.08 g) which darkened to a brown gum on storage. This material failed to crystallise from common organic solvents.

reactant | Isobutyl chloroformate | 1.5 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 5-amino-1H-indole-3-acetonitrile | 1.7 g | NC=1C=C2C(=CNC2=CC1)CC#N | C10H9N3
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | 150 ml | O | H2O
product | 2-methylpropyl [3(2-aminoethyl)-1H-indol-5-yl]carbamate, hydrochloride | 1.08 g | Cl.NCCC1=CNC2=CC=C(C=C12)NC(OCC(C)C)=O | InChI=1S/C15H21N3O2.ClH/c1-10(2)9-20-15(19)18-12-3-4-14-13(7-12)11(5-6-16)8-17-14;/h3-4,7-8,10,17H,5-6,9,16H2,1-2H3,(H,18,19);1H
